US06080743
a) N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-acetamide
111 mg (0.437 mmol) of 5-aminomethyl-2,3-dimethoxy-7-nitro-quinoxaline, obtainable in a manner analogous to that described in Example 9 but starting from 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline, are stirred with 0.046 ml (1.1 equiv.) of acetic anhydride and 0.073 ml (1.2 equiv.) of triethylamine in 5 ml of N,N-diethylformamide at room temperature for 24 hours. The reaction mixture is diluted with diethyl ether, and the solid is filtered off, washed with diethyl ether and dried.

reactant | 5-aminomethyl-2,3-dimethoxy-7-nitro-quinoxaline | 0.437 mmol, 111 mg | NCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H12N4O4
reactant | 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline | BrCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H10BrN3O4
reactant | acetic anhydride | 0.046 ml, 1.1 equiv. | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.073 ml, 1.2 equiv. | C(C)N(CC)CC | C6H15N
solvent | N,N-diethylformamide | 5 ml | C(C)N(C=O)CC | C5H11NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-acetamide | COC1=NC2=CC(=CC(=C2N=C1OC)CNC(C)=O)[N+](=O)[O-] | C13H14N4O5
